US08022062B2
Use a method similar to the General Procedure 5-1 to couple 7-chloro-9-fluoro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (130 mg, 0.3 mmol) with 3-fluorobenzylamine (100 □L, 0.89 mmol). Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1 and 4:1) followed by SCX chromatography to give 7-chloro-9-fluoro-6-(3-fluorobenzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a yellow oil (35 mg, 28%). MS (ES+) m/z: 401 (M+H)+.

reactant | 7-chloro-9-fluoro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.3 mmol, 130 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C(=C1)F)OS(=O)(=O)C(F)(F)F | C13H9ClF7NO4S
reactant | 3-fluorobenzylamine | 0.89 mmol | FC=1C=C(CN)C=CC1 | C7H8FN
product | 7-chloro-9-fluoro-6-(3-fluorobenzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 35 mg, 28% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C(=C1)F)NCC1=CC(=CC=C1)F | C19H16ClF5N2O
